US08236835B2
Preparation of 2-amino-N-benzyl-4-methylthiazole-5-carboxamide
To a suspension of 2-amino-4-methylthiazole-5-carboxylic acid (5.20 g, 32.9 mmol) and N,N-diisopropylethylamine (15 mL, 86.7 mmol) in N,N-dimethylformamide (40 mL) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (8.18 g, 42.7 mmol). The resulting mixture was stirred for 30 min, then 1-hydroxybenzotriazole hydrate (5.78 g, 42.7 mmol) was added, followed by the addition of benzylamine (4.3 mL, 39.3 mmol). The reaction mixture was stirred at ambient temperature for 2 days, then diluted with ethyl acetate, washed with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was purified by column chromatography to afford the title compound in 60% yield (4.90 g): 1H NMR (300 MHz, DMSO-d6) δ 7.36-7.25 (m, 5H), 5.79 (br s, 1H), 5.36 (br s, 2H), 4.54 (d, J=5.7 Hz, 2H), 2.47 (s, 3H); MS (ES+) m/z 248.4 (M+1).

reactant | 2-amino-4-methylthiazole-5-carboxylic acid | 32.9 mmol, 5.20 g | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
reactant | N,N-diisopropylethylamine | 86.7 mmol, 15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 42.7 mmol, 8.18 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 42.7 mmol, 5.78 g | O.ON1N=NC2=C1C=CC=C2
reactant | benzylamine | 39.3 mmol, 4.3 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-N-benzyl-4-methylthiazole-5-carboxamide | 60% yield | NC=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H13N3OS
